US08580762B2
Step 6. (2R,3R,4S,5R)-2-(6-amino-9H-purin-9-yl)-5-[({3-[2-(5-cyclobutyl-1H-1,3-benzodiazol-2-yl)ethyl]cyclobutyl}(propan-2-yl)amino)methyl]oxolane-3,4-diol
12N HCl (24 mmol, 2 ml) was added dropwise to a solution of 9-[(3aR,4R,6R,6aR)-6-[({3-[2-(5-cyclobutyl-1H-1,3-benzodiazol-2-yl)ethyl]cyclobutyl}(propan-2-yl)amino)methyl]-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-amine (120 mg, 0.164 mmol) in MeOH (2 ml) at 0° C. whilst stirring. This was then allowed to warm to RT and continued for 6 hours. The reaction mixture was cooled to 0° C. and basified with 7N NH3 in MeOH (10 ml). This was then evaporated in vacuo. The crude product was absorbed onto silica gel (1 ml), placed onto an isolute flash Si cartridge (10 g) and purified, eluting with 7N NH3 in MeOH:DCM (1:9) to give a white solid, 36 mg (38%); MS (ESI+) for C30H40N8O3 m/z 561.45 [M+H]+; HPLC purity 100% (ret. time, 1.13 min); 1H NMR (500 MHz, CHLOROFORM-d) δH ppm 8.29 (d, J=4.6 Hz, 1H), 8.20 (d, J=1.6 Hz, 1H), 7.50-7.18 (m, 2H), 7.06 (ddd, J=8.3, 4.6, 1.3 Hz, 1H), 6.01-5.90 (m, 1H), 4.73 (dd, J=9.8, 5.1 Hz, 1H), 4.26 (q, J=5.4 Hz, 1H), 4.14-4.03 (m, 1H), 3.60-3.15 (m, 2H), 3.07-2.86 (m, 2H), 2.84-2.67 (m, 3H), 2.42-2.31 (m, 2H), 2.25-2.11 (m, 4H), 2.10-1.95 (m, 2H), 1.92-1.74 (m, 4H), 1.57 (dd, J=12.2, 6.2 Hz, 1H), 1.02 (dd, J=6.6, 4.0 Hz, 3H), 0.95 (dd, J=6.6, 2.3 Hz, 3H).

reactant | HCl | 24 mmol, 12N, 2 ml | Cl | ClH
reactant | 9-[(3aR,4R,6R,6aR)-6-[({3-[2-(5-cyclobutyl-1H-1,3-benzodiazol-2-yl)ethyl]cyclobutyl}(propan-2-yl)amino)methyl]-2,2-dimethyl-tetrahydro-2H-furo[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-amine | 0.164 mmol, 120 mg | C1(CCC1)C1=CC2=C(NC(=N2)CCC2CC(C2)N(C(C)C)C[C@H]2O[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C2=NC=NC(=C2N=C3)N)C=C1 | C33H44N8O3
reactant | NH3 | 7N | N | H3N
solvent | MeOH | 2 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
product | (2R,3R,4S,5R)-2-(6-amino-9H-purin-9-yl)-5-[({3-[2-(5-cyclobutyl-1H-1,3-benzodiazol-2-yl)ethyl]cyclobutyl}(propan-2-yl)amino)methyl]oxolane-3,4-diol | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CN(C(C)C)C1CC(C1)CCC1=NC2=C(N1)C=CC(=C2)C2CCC2 | C30H40N8O3
